US08648066B2
A solution of 4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine (0.10 g, 0.21 mmol), 2-amino-5-bromopyrazine (40 mg, 0.21 mmol) and potassium carbonate (0.12 g, 0.84 mmol) in N,N-dimethylformamide (5 mL), and water (0.5 mL) was degassed by bubbling nitrogen gas for five minutes followed by the addition of [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (15 mg, 0.021 mmol), then stirred at 95° C. for 16 hours. After cooling to room temperature the reaction mixture was partitioned between ethyl acetate (50 mL) and brine (30 mL). The organic layer was separated, washed with brine, dried over sodium sulfate then filtered and concentrated. Purification by preparative reverse phase HPLC (0.1% aqueous ammonium acetate-acetonitrile) provided 5-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)pyrazin-2-amine (18 mg, 20%). 1H NMR (400 MHz, d6-DMSO): 8.80 (s, 1H), 8.38 (s, 1H), 7.96 (s, 1H), 7.72 (d, 1H), 7.50 (br s, 1H), 7.25-7.14 (m, 4H), 6.93 (d, 1H), 4.90 (s, 2H), 4.32 (m, 2H), 4.00 (m, 4H), 2.22 (s, 3H). MS (EI) for C25H23FNO6: 443 (MH+).

reactant | 4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine | 0.21 mmol, 0.10 g | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C27H31BFN3O3
reactant | 2-amino-5-bromopyrazine | 0.21 mmol, 40 mg | NC1=NC=C(N=C1)Br | C4H4BrN3
reactant | potassium carbonate | 0.84 mmol, 0.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.5 mL | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.021 mmol, 15 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)pyrazin-2-amine | 18 mg, 20% | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)C=2N=CC(=NC2)N | C25H23FN6O
